US07723309B2
1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-((R)-tetrahydrofuran-3-yloxy)-benzyl]-benzene
0.19 g (S)-3-(4-methylphenylsulfonyloxy)-tetrahydrofuran are added to a mixture of 0.20 g 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene and 0.29 g cesium carbonate in 2.5 ml dimethylformamide. The mixture is stirred at 75° C. for 4 h, before another 0.29 g caesium carbonate and 0.19 g (S)-3-(4-methylphenyl-sulfonyloxy)-tetrahydrofuran are added. After an additional 14 h stirring at 75° C. the mixture is cooled to ambient temperature, and brine is added. The resulting mixture is extracted with ethyl acetate, the combined organic extracts are dried over sodium sulfate, and the solvent is removed. The residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0->5:1).

reactant | (S)-3-(4-methylphenylsulfonyloxy)-tetrahydrofuran | 0.19 g | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H]1COCC1 | C11H14O4S
reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene | 0.20 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)O | C19H21ClO7
reactant | cesium carbonate | 0.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | caesium carbonate | 0.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-3-(4-methylphenyl-sulfonyloxy)-tetrahydrofuran | 0.19 g | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H]1COCC1 | C11H14O4S
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-((R)-tetrahydrofuran-3-yloxy)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)O[C@H]1COCC1 | C23H27ClO8
